US09447078B2
Addition of CH3CN to (E)-5-(2-cyclohexylvinyl)nicotinaldehyde following the method used in Example 3 gave (E)-3-(5-(2-cyclohexylvinyl)pyridin-3-yl)-3-hydroxypropanenitrile as a yellow oil. Yield (0.9 g, 95%); 1H NMR (400 MHz, CDCl3) δ 8.43 (s, 1H), 8.41 (s, 1H), 7.93 (s, 1H), 6.42 (s, 2H), 5.05 (t, J=5.6 Hz, 1H), 2.98-2.82 (m, 2H), 2.24-2.12 (m, 1H), 1.88-1.66 (m, 5H), 1.42-1.18 (m, 5H).

reactant | (E)-5-(2-cyclohexylvinyl)nicotinaldehyde | C1(CCCCC1)/C=C/C=1C=NC=C(C=O)C1 | C14H17NO
reactant | CH3CN | CC#N | C2H3N
product | (E)-3-(5-(2-cyclohexylvinyl)pyridin-3-yl)-3-hydroxypropanenitrile | C1(CCCCC1)/C=C/C=1C=C(C=NC1)C(CC#N)O | C16H20N2O
